US05527819
Step C: N-Cyano-5-chloro-3-phenylsulfonylindole-2-carboximidamide
Ethyl 5-chloro-3-phenylsulfonylindole-2-carboximidate is reacted with an equimolar amount of cyanamide in absolute methanol (according to the procedure of K. R. Huffman and F. C. Schaefer (J. Org. Chem., 28, 1812 (1963)). After 30-60 minutes the solvent is removed and the residue purified by silica gel chromatography to afford the title compound.

reactant | Ethyl 5-chloro-3-phenylsulfonylindole-2-carboximidate | ClC=1C=C2C(=C(NC2=CC1)C(OCC)=N)S(=O)(=O)C1=CC=CC=C1 | C17H15ClN2O3S
reactant | cyanamide | N#CN | CH2N2
solvent | methanol | CO | CH4O
product | N-Cyano-5-chloro-3-phenylsulfonylindole-2-carboximidamide | C(#N)NC(=N)C=1NC2=CC=C(C=C2C1S(=O)(=O)C1=CC=CC=C1)Cl | C16H11ClN4O2S
